US07189851B2
B. Ethyl 3-oxo-5-[4-(trifluoromethyl)phenyl]pentanoate
2,2-Dimethyl-5-{3-[4-(trifluoromethyl)phenyl]propanoyl}-1,3-dioxane-4,6-dione (200 mmol) was dissolved in 500 mL absolute EtOH and refluxed for 3 h. Concentration provided the title compound as a pale yellow oil (57.35 g, 199 mmol, 99.5%, two steps): 1H NMR (400 MHz, CDCl3) δ 7.52 (d, J=8.0 Hz, 2H), 7.29 (d, J=8.0 Hz, 2H), 4.15 (m, 2H), 3.42 (s, 2H), 2.96 (m, 2H), 2.90 (m, 2H), 1.24 (t, J=7.1 Hz, 3H) ppm.

reactant | 2,2-Dimethyl-5-{3-[4-(trifluoromethyl)phenyl]propanoyl}-1,3-dioxane-4,6-dione | 200 mmol | CC1(OC(C(C(O1)=O)C(CCC1=CC=C(C=C1)C(F)(F)F)=O)=O)C | C16H15F3O5
solvent | EtOH | 500 mL | CCO | C2H6O
product | Ethyl 3-oxo-5-[4-(trifluoromethyl)phenyl]pentanoate | 199 mmol, 57.35 g, 99.5% | O=C(CC(=O)OCC)CCC1=CC=C(C=C1)C(F)(F)F | C14H15F3O3
